US05153187
A mixture of isopropoxycarbonyloxyethyl chloride (=2-chloroethyl isopropylcarbonate) (1.67 g), carbon tetrachloride (10 ml), sodium iodide (2.10 g) and anhydrous zinc chloride (0.08 g) is stirred at room temperature for 2 hours, and thereafter, ice water is added to the mixture. The organic layer is separated, and the aqueous layer is extracted twice with carbon tetrachloride. The combined organic layers are washed, dried and evaporated under reduced pressure to give isopropoxycarbonyloxyethyl iodide (=2-iodoethyl isopropylcarbonate) (1.48 g) as an oil.

reactant | isopropoxycarbonyloxyethyl chloride | 1.67 g | C(C)(C)OC(=O)OCCCl | C6H11ClO3
reactant | sodium iodide | 2.10 g | [I-].[Na+]
catalyst | zinc chloride | 0.08 g | [Cl-].[Zn+2].[Cl-]
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | isopropoxycarbonyloxyethyl iodide | 1.48 g | C(C)(C)OC(=O)OCCI | C6H11IO3
